US06194461B1
Production of α-(2,5-difluorophenyl)-N-t-butylnitrone
A suspension of 2,5-difluorobenzaldehyde (291.5 mg, 2.05 mmol), 2-methyl-2-nitropropane (427.3 mg, 4.14 mmol) and zinc (407.3 mg, 6.23 mmol) in ethanol (5 ml) was cooled to 0° C. in ice-water bath. Acetic acid (0.69 ml, 12.0 mmol) was added dropwise to the mixture. The mixture was gradually warmed to room temperature, stirred for 2 hours and let stand overnight. The mixture was filtered through Celite® bed and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=10/1) to give the title compound (393 mg; 90%).

reactant | 2,5-difluorobenzaldehyde | 2.05 mmol, 291.5 mg | FC1=C(C=O)C=C(C=C1)F | C7H4F2O
reactant | 2-methyl-2-nitropropane | 4.14 mmol, 427.3 mg | CC(C)(C)[N+](=O)[O-] | C4H9NO2
reactant | Acetic acid | 12.0 mmol, 0.69 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | zinc | 6.23 mmol, 407.3 mg | [Zn] | Zn
product | α-(2,5-difluorophenyl)-N-t-butylnitrone | 393 mg, 90% | FC1=C(C=C(C=C1)F)C=[N+]([O-])C(C)(C)C | C11H13F2NO
